Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Azithromycin / Levofloxacin
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ lady with a history of lung cancer s/p 
cyberknife to RLL lesion, >100 pack year smoking history, COPD 
on 2L NC at home, and prior COPD exacerbations who presented to 
the ED for SOB c/f COPD exacerbation

As some background, she has a > 100 pack year smoking history 
and has had numerous prior COPD exacerbations treated with 
steroids. 

Had PFTs in ___ which showed severe obstructive disease. 
TTE was normal at the time. CT Chest showed no change in right 
lower lobe lung mass. 

Home COPD regimen includes albuterol nebs, albuterol inhaler, 
advair, and incruse inhalation. She uses 2L oxygen at home by 
nasal cannula. She also attends pulmonary rehab at ___ 
___. She is followed by Dr. ___ pulmonologist. 

She recently saw her PCP and endorsed significant DOE even while 
wearing oxygen. She received prednisone course at the time.

This presentation:
Patient has had 1 week worsening SOB, and also felt like she had 
a cold that was worsening. 

In the ED, initial vitals: 98.3, 165/83, RR 45, O2 78% on 2L NC. 
She triggered for tachypnea and hypoxia. She was noted to be 
working very hard to breath. She was started on stacked nebs and 
then continuous nebs, also given methylpred 125 mg IV x1, 
azithromycin 500 mg, Zofran (as she gets nauseous with azithro). 
Vitals improved to HR 111, BP 127/63, RR 24, and O2 94% 2L (home 
O2 requirement is 2L). 

Other labs: WBC 9.1, Cr 0.5, Mg 1.8, Trop < 0.01, VBG 7.36/70. 

CXR showed no acute pulmonary process

 
Past Medical History:
-COPD with frequent exacerbations, 2L NC home O2 used PRN less 
than daily. Climbs 4 stairs before requiring rest at baseline. 
Baseline PF ~ 150.  
-H/o breast CA in ___, T2, N2 intraductal carcinoma, ER Pos, 
HER-2 Neg. s/p chemo/radiation, no evidence of recurrence  
h/o arterial clot in right great toe "years ago", treated with 
coumadin  
-Smoking history; quit smoking 1 week ago
 
Social History:
___
Family History:
Father died at age ___ of emphysema and coronary artery disease, 
had first MI in ___. Mother died of emphysema at age ___. 
Sister who died of breast cancer. Brother who died of lymphoma 
at ___.
 
Physical Exam:
VS: 98.4 PO 105/50 R Lying 82 20 94 2L NC 
GEN: mild resp distress (after getting to bed from commode),
mildly cachectic, otherwise appropriate, pleasant, interactive. 
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: tachycardic, distant s1s2 nl, no m/r/g
PULM: CTA, minimal breath sounds, prolonged exp phase, no r/r/w 
GI: normal BS, NT/ND, no HSM  
EXT: warm, no c/c, 1+ PE to knees bil 
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent
 
Pertinent Results:
ADMISSION
=========
___ 04:18PM BLOOD WBC-9.1 RBC-4.35 Hgb-13.0 Hct-41.5 MCV-95 
MCH-29.9 MCHC-31.3* RDW-12.6 RDWSD-44.6 Plt ___
___ 06:07AM BLOOD WBC-4.5# RBC-4.39 Hgb-13.4 Hct-41.8 
MCV-95 MCH-30.5 MCHC-32.1 RDW-12.2 RDWSD-42.6 Plt ___
___ 06:31AM BLOOD WBC-5.7 RBC-3.68* Hgb-11.3 Hct-34.6 
MCV-94 MCH-30.7 MCHC-32.7 RDW-12.6 RDWSD-44.0 Plt ___
___ 04:18PM BLOOD Glucose-99 UreaN-9 Creat-0.5 Na-139 K-4.4 
Cl-93* HCO3-35* AnGap-11
___ 06:07AM BLOOD Glucose-121* UreaN-8 Creat-0.5 Na-137 
K-5.6* Cl-97 HCO3-31 AnGap-9*
___ 06:31AM BLOOD Glucose-78 UreaN-15 Creat-0.5 Na-141 
K-4.0 Cl-94* HCO3-38* AnGap-9*
___ 04:18PM BLOOD Calcium-9.7 Phos-4.7* Mg-1.8
___ 06:07AM BLOOD Calcium-8.4 Phos-4.3 Mg-1.8
___ 06:31AM BLOOD Calcium-8.8 Phos-3.6 Mg-1.8
___ 04:18PM BLOOD proBNP-220
___ 04:18PM BLOOD cTropnT-<0.01
___ 04:28PM BLOOD ___ pO2-74* pCO2-70* pH-7.36 
calTCO2-41* Base XS-10
___ 07:06AM BLOOD ___ pO2-245* pCO2-70* pH-7.37 
calTCO2-42* Base XS-12 Comment-GREEN TOP

DISCHARGE
=========

___ 07:43AM BLOOD WBC-5.1 RBC-3.84* Hgb-11.8 Hct-36.3 
MCV-95 MCH-30.7 MCHC-32.5 RDW-12.6 RDWSD-43.6 Plt ___
___ 07:43AM BLOOD Glucose-72 UreaN-12 Creat-0.6 Na-143 
K-4.1 Cl-96 HCO3-40* AnGap-7*
___ 07:43AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0
___ 07:06AM BLOOD ___ pO2-245* pCO2-70* pH-7.37 
calTCO2-42* Base XS-12 Comment-GREEN TOP
 
Brief Hospital Course:
Ms. ___ is a ___ h/o COPD on 2L NC at home (>100 pack year tob 
use), mult prior COPD exacerbation, lung CA /p cyberknife to RLL 
lesion, who presented to the ED for SOB c/f COPD exacerbation. 
She reports having 1 wk worsening SOB in setting of possible 
viral URI and stopping tob use (~ 1 wk prior to admission).  In 
the ED, initial vitals: 98.3, 165/83, RR 45, O2 78% on 2L NC. 
She triggered for tachypnea and hypoxia - noted to be 
significantly dyspneic.
   She was started on stacked nebs and then continuous nebs, 
also given methylpred 125 mg IV x1, azithromycin 500 mg, Zofran 
(as she gets nauseous with azithro). Vitals improved to HR 111, 
BP 127/63, RR 24, and O2 94% 2L (home O2 requirement is 2L).  
She was transferred to ___ for further mgmt.  In the FICU, her 
respiratory status stabilized and was back to her baseline home 
O2.  She desaturated with ambulation (70-80%) and was markedly 
dyspneic with minimal exertion.  However, while at rest, O2 
sats>90% on 2L NC.  No need for BiPAP/CPAP during the ICU stay. 
Flu test returned negative.  Due to stable situation, she is 
being transferred to the floor.
   On transfer, she notes significant dyspnea with minimal 
exertion.  Close to her baseline.  Has sensation of sputum in 
chest, but has difficulty coughing it up.  Notes chest tightness 
(EKG, trop neg).   
   The following day, she reported improvement. She worked with 
___ and had no acute ___ needs. She initially felt ready to go 
home, then felt like she still wasn't back to her baseline and 
needed another day in the hospital. She will go home on home 
inhalers, home oxygen, finish course of prednisone and 
azithromycin. She is no longer interested in bupropion or 
nicotine but says she does not plan to continue smoking. Follow 
up with PCP's office scheduled next week.

CHRONIC ISSUES  
# Mood
- Continued venlafaxine 75 mg PO daily
#Insomnia
-Continued home trazadone QHS PRN
# HLD
- Continued home simvastatin 20 mg PO daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
2. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY 
3. Simvastatin 20 mg PO QPM 
4. TraZODone 150 mg PO QHS:PRN insomnia 
5. Venlafaxine 75 mg PO DAILY 
6. albuterol sulfate 90 mcg INHALATION Q6H:PRN Shortness of 
breath 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 1 Dose 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
2.  PredniSONE 60 mg PO DAILY Duration: 1 Dose 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
3.  albuterol sulfate 90 mcg INHALATION Q6H:PRN Shortness of 
breath 
RX *albuterol sulfate [ProAir HFA] 90 mcg 1 INH every 6 hours as 
needed Disp #*1 Inhaler Refills:*0 
4.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/dose 1 
INH twice daily Disp #*1 Disk Refills:*0 
5.  Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
DAILY 
RX *umeclidinium [Incruse Ellipta] 62.5 mcg/actuation 1 INH 
daily Disp #*1 Disk Refills:*0 
6.  Simvastatin 20 mg PO QPM  
7.  TraZODone 150 mg PO QHS:PRN insomnia  
8.  Venlafaxine 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic obstructive pulmonary disease exacerbation
Viral upper respiratory infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,
You were admitted to the hospital for an exacerbation of your 
COPD, likely triggered by a viral illness. You were initially 
admitted to the intensive care unit and treated with nebulizers, 
steroids, and antibiotics to decrease inflammation. You improved 
and were moved to the medical floor, where you continued to 
improve back to your baseline level of breathing.

Please continue the 5-day course of steroids and azithromycin as 
prescribed and follow up with your outpatient providers.

It was a pleasure taking care of you!

Sincerely,
Your ___ team
 
Followup Instructions:
___